US05808111
Next, 359 mg (1 mmol) of the methyl 2,3,4-tri-O-acetyl glucopyranuronosyl azide was added to 50 ml of tetrahyrofuran containing 50 mg of 10% Pd on carbon. The solution was cooled to -15° C. and was shaken under 40 psl of hydrogen for 1 hour, filtered and concentrated to dryness to produce methyl 2,3,4,-tri-O-acetylglucopyranuronosyl amine.

reactant | methyl 2,3,4-tri-O-acetyl glucopyranuronosyl azide | 1 mmol, 359 mg | CC1([C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)C(=O)O)N=[N+]=[N-] | C13H17N3O9
reactant | hydrogen | [H][H] | H2
reactant | tetrahyrofuran | 50 ml, 50 mg | O1CCCC1 | C4H8O
catalyst | Pd on carbon | [Pd] | Pd
product | methyl 2,3,4,-tri-O-acetylglucopyranuronosyl amine | CNC1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)C(=O)O | C13H19NO9
